US09403782B2
Pyridazin-3-yl(7-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2 (1H)-yl) methanone:
To a suspension of 7-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride (50 mgs, 0.16 mmol), pyridazine-3-carboxylic acid (30 mgs, 0.24 mmol), HATU (91 mgs, 0.24 mmol), in DMF (1.0 mL) was added NMM (0.05 mL, 0.48 mmol) and the resulting solution was stirred at 23° C. for 16 h. The reaction mixture was then diluted with water/acetonitrile (10:1) and the solid formed was then washed with water, diethylether and dried to give the title compound. MS found for C21H16F3N3O as (M+H)+ 384.1 1H NMR (400 MHz, dmso-d6): mixture of rotomers (˜1.5:1): major rotomer: δ 8.93 (m, 2H), 7.96-7.91 (m, 3H); 7.91-7.55 (m, 6H); 7.32 (m, 1H); 4.90 (s, 2H); 3.44-3.41 (m, 2H); 2.86-2.848 (m, 2H).

reactant | 7-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.16 mmol, 50 mgs | Cl.FC(C1=CC=C(C=C1)C1=CC=C2CCNCC2=C1)(F)F
reactant | pyridazine-3-carboxylic acid | 0.24 mmol, 30 mgs | N1=NC(=CC=C1)C(=O)O | C5H4N2O2
reactant | HATU | 0.24 mmol, 91 mgs | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 0.48 mmol, 0.05 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water acetonitrile | O.C(C)#N
product | Pyridazin-3-yl(7-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2 (1H)-yl) methanone | N1=NC(=CC=C1)C(=O)N1CC2=CC(=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C21H16F3N3O
